US05665777
A solution in trifluoroacetic acid of O-tert-butyl 5-[4-(4-fluorophenyl)phenoxy]pentanohydroxamic acid (0.41 g, 1.1 mmol) was stirred overnight. The reaction mixture was concentrated in vacuo and the residue was suspended in acetonitrile and stirred for 30 minutes. The solid was filtered and dried in vacuo to give 5-[4-(4-fluorophenyl)phenoxy]pentanohydroxamic acid (128 mg) as a white solid. mp 160°-162° C. 1H NMR (DMSO-d6) δ 10.378 (s, 1H), 8.69 (s, 1H), 7.66-7.63 (m, 2H), 7.57-7.55 (d, 2H, J=8.8 Hz), 7.27-7.21 (t, 2H, J=8.8 Hz), 7.02-6.99 (d, 2H, J=8.8 Hz), 4.02-3.98 (t, 2H, J=5.9 Hz), 2.04-2.00 (t, 2H, J=7 Hz), 1.68-1.66 (m, 4H). 13C NMR (DMSO-d6) δ 21.76, 28.15, 31.87, 7.11, 114.85, 115.38, 115.66, 118.34, 127.66, 127.94, 128.03, 131.04, 136.20, 136.33, 158.18, 159.76, 162.98, 168.87. MS (DCI/NH3) 304 (M+H)+, 321 (M+NH4)+. Anal. Calcd for C17H18NO3F: C, 67.31; H, 5.98; N, 4.61. Found: C, 7.19; H, 6.03; N, 4.40.

reactant | O-tert-butyl 5-[4-(4-fluorophenyl)phenoxy]pentanohydroxamic acid | 1.1 mmol, 0.41 g | C(C)(C)(C)ONC(CCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C21H26FNO3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5-[4-(4-fluorophenyl)phenoxy]pentanohydroxamic acid | 128 mg | FC1=CC=C(C=C1)C1=CC=C(OCCCCC(=O)NO)C=C1 | C17H18FNO3
